US07696213B2
2-(2,2-Difluoroethylamino)-8-(4-hydroxycyclohexyl)-6-(6-methoxypyridin-3-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (Compound 275)
To a solution of 2-amino-8-(4-hydroxycyclohexyl)-6-(6-methoxypyridin-3-yl)-4-methylpyrido[2,3-d]pyrimidin-[7(8H)-one (50 mg, 0.13 mmol) in anhydrous DMA (1.0 ml) at room temperature was added a 1M solution of potassium tert-butoxide in THF (0.14 ml). After stirring at R.T. for 1 hour, to the reaction mixture was added 1-bromo-2,2-difluoroethane (20.9 mg, 0.14 mmol). After stirring at room temperature for 16 h and 4.5 h at 80° C. the reaction mixture was cooled to room temperature, and 1M solution of potassium tert-butoxide in THF (0.16 ml) and 1-bromo-2,2-difluoroethane (41.8 mg, 0.28 mmol) were added. After stirring at 80° C. for 16 h, to the reaction mixture was added another 1M solution of potassium tert-butoxide in THF (0.1 ml) and 1-bromo-2,2-difluoroethane (62.7 mg, 0.42 mmol). After stirring at 80° C. for 16 h, to the reaction mixture another 3 eq of 1M solution of potassium tert-butoxide in THF and 3 eq of 1-bromo-2,2-difluoroethane were added. After heating in microwave for 20 mins at 120° C., the reaction mixture was cooled to room temperature and diluted with DMSO, the precipitate was removed by filtration. The filtrate was combined and purified using reversed phase column eluted with acetonitrile (0.1% acetic acid) and water (0.1% acetic acid) to give the titled compound as a solid weighted 14.6 mg.

reactant | 2-amino-8-(4-hydroxycyclohexyl)-6-(6-methoxypyridin-3-yl)-4-methylpyrido[2,3-d]pyrimidin | NC=1N=C(C2=C(N1)N(CC(=C2)C=2C=NC(=CC2)OC)C2CCC(CC2)O)C | C20H25N5O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 1-bromo-2,2-difluoroethane | 0.14 mmol, 20.9 mg | BrCC(F)F | C2H3BrF2
reactant | 1-bromo-2,2-difluoroethane | 0.28 mmol, 41.8 mg | BrCC(F)F | C2H3BrF2
reactant | 1-bromo-2,2-difluoroethane | 0.42 mmol, 62.7 mg | BrCC(F)F | C2H3BrF2
reactant | 1-bromo-2,2-difluoroethane | 3 eq | BrCC(F)F | C2H3BrF2
solvent | DMA | 1.0 ml | CC(=O)N(C)C | C4H9NO
solvent | THF | 0.14 ml | C1CCOC1 | C4H8O
solvent | THF | 0.16 ml | C1CCOC1 | C4H8O
solvent | THF | 0.1 ml | C1CCOC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2,2-Difluoroethylamino)-8-(4-hydroxycyclohexyl)-6-(6-methoxypyridin-3-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | FC(CNC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NC(=CC2)OC)=O)C2CCC(CC2)O)C)F | C22H25F2N5O3
